US07915281B2
Propargylamine (25 mL, 0.36 mol) was added dropwise over a period of five minutes to a 4.5° C. solution of 2,4-dichloro-3-nitroquinoline (84.4 g, 0.347 mol) and triethylamine (73 mL, 0.52 mol) in dichloromethane (1.2 L). After one hour, the solution was allowed to warm to room temperature. After several days, the solvent was evaporated under reduced pressure and the resulting solid was triturated with water and isolated by filtration. The solid was rinsed with water and toluene (500 mL), then was dissolved in dichloromethane and toluene and concentrated under reduced pressure to remove residual water. The solid was dissolved in methanol and ether and concentrated under reduced pressure to afford 2-chloro-3-nitro-N-prop-2-ynylquinolin-4-amine as yellow-brown solid (79.5 g) that contained some impurities and was used without further manipulation.

reactant | Propargylamine | 0.36 mol, 25 mL | C(C#C)N | C3H5N
reactant | 2,4-dichloro-3-nitroquinoline | 0.347 mol, 84.4 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | triethylamine | 0.52 mol, 73 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.2 L | ClCCl | CH2Cl2
product | 2-chloro-3-nitro-N-prop-2-ynylquinolin-4-amine | 79.5 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC#C | C12H8ClN3O2
